US08629271B2
g) [4-(2,2-Diethoxy-ethoxy)-phenyl]-methanol
Caesium carbonate (39.4 g) was added to a solution of 4-hydroxymethyl-phenol (10 g) and 2-bromo-1,1-diethoxyethane (12.73 mL) in DMF (200 mL) and the resulting mixture stirred at 90° C. for 16 h. The reaction was poured into water (500 mL) and extracted with ethyl acetate (3×250 mL). The combined organic solutions were washed with water (250 mL) and brine (250 mL), then dried over sodium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with an isohexane to diethyl ether gradient to give the subtitled compound as a yellow oil. Yield 9.5 g.

reactant | Caesium carbonate | 39.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-hydroxymethyl-phenol | 10 g | OCC1=CC=C(C=C1)O | C7H8O2
reactant | 2-bromo-1,1-diethoxyethane | 12.73 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | water | 500 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | [4-(2,2-Diethoxy-ethoxy)-phenyl]-methanol | C(C)OC(COC1=CC=C(C=C1)CO)OCC | C13H20O4
